US07632838B2
1-(5-chloro-3-methyl-benzo[b]thiophene-2-sulfonyl)-4-(3-trifluoromethyl-pyridin-2-yl)-piperazine (142.5 mg, 0.3 mmol), Pd2(dba)3 (13.7 mg, 0.015 mmol), t-BuONa (82.7 mg, 0.84 mmol) and the ligand (9 mg, 0.03 mmol) were mixed in a sealed tube which was flushed with N2. To this was added tolene (2 mL) and then morpholine (21 μL, 0.24 mmol). The resultant mixture was heated at 80° C. for 4 hours. The solvent was removed under vacuum and the crude product was purified with flash column chromatography to yield 4-{3-Methyl-2-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazine-1-sulfonyl]-benzo[b]thiophen-5-yl}-morpholine in 52% yield (82 mg) as white solid. HRMS: calcd for C23H25F3N4O3S2+H+, 527.13929. found (ESI-FTMS, [M+H]1+), 527.1392.

reactant | 1-(5-chloro-3-methyl-benzo[b]thiophene-2-sulfonyl)-4-(3-trifluoromethyl-pyridin-2-yl)-piperazine | 0.3 mmol, 142.5 mg | ClC1=CC2=C(SC(=C2C)S(=O)(=O)N2CCN(CC2)C2=NC=CC=C2C(F)(F)F)C=C1 | C19H17ClF3N3O2S2
reactant | t-BuONa | 0.84 mmol, 82.7 mg | C(C)(C)(C)O[Na]
reactant | morpholine | 0.24 mmol, 21 μL | N1CCOCC1 | C4H9NO
catalyst | Pd2(dba)3 | 0.015 mmol, 13.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-{3-Methyl-2-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazine-1-sulfonyl]-benzo[b]thiophen-5-yl}-morpholine | 52% yield | CC=1C2=C(SC1S(=O)(=O)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)C=CC(=C2)N2CCOCC2 | C23H25F3N4O3S2
